US06624159B2
Ethyl 9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate. [AG.1]
Glycine methylamide (1.0 g) is added at room temperature to a solution of ethyl 2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate (Preparation 21, 2.0 g) in NMP (20 mL). Sodium hydride (400 mg, 60% dispersion in mineral oil) is added in two portions to the solution, and the solution is heated at 100° C. for 30 min. The product is partitioned between chloroform and water, the chloroform phase is concentrated and applied to a silica gel column with 1-2% methanol chloroform as the eluant. The purified fractions are triturated with ether to give 1.22 g of the title compound. Physical characteristics: M.p. 278-283° C.; 1H NMR (DMSO-d6) δ1.29, 3.63, 4.23, 5.10, 7.65, 8.09, 8.55. Anal. Found: C, 43.49; H, 3.18; N, 6.75.

reactant | Glycine methylamide | 1.0 g | CNC(CN)=O | C3H8N2O
reactant | ethyl 2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate | 2.0 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C=C1F)I | C14H13F2IO4
reactant | Sodium hydride | 400 mg | [H-].[Na+]
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | Ethyl 9-iodo-1-methyl-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 1.22 g | IC=1C=C2C=3N(CC(N(C3C1)C)=O)C=C(C2=O)C(=O)OCC | C15H13IN2O4
